US05424276
A mixture of t-butyl 3-cyclopropyl-2-(2-fluoro-4-methylsulphonylbenzoyl)-3-oxopropionate (10.5 g) and p-toluenesulphonic add (2.0 g) in toluene was stirred and heated at reflux for 4 hours. The mixture was washed with water, dried (anhydrous magnesium sulphate) and filtered. The flitrate was evaporated to dryness to give 3-cyclopropyl-1-(2-fluoro-4-methylsulphonylphenyl)-propan-1,3-dione (7.4 g) as a red gum, NMR (CDCl3); 0.9-1.3 (m,4H), 1.8-2.1 (m, 1H), 3.1 (s,3H), 6.3 (s, 1H), 7.5-8.0 (m,3H).

reactant | t-butyl 3-cyclopropyl-2-(2-fluoro-4-methylsulphonylbenzoyl)-3-oxopropionate | 10.5 g | C1(CC1)C(C(C(=O)OC(C)(C)C)C(C1=C(C=C(C=C1)S(=O)(=O)C)F)=O)=O | C18H21FO6S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopropyl-1-(2-fluoro-4-methylsulphonylphenyl)-propan-1,3-dione | 7.4 g | C1(CC1)C(CC(=O)C1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C13H13FO4S
